US08389513B2
A solution of 1-difluoromethyl-1H-pyrazole-3-carboxylic acid (CAS925179-02-8) (500 mg, 3.1 mmol) in methanol (18 ml) was cooled to 0° C. and treated with sulphuric acid (98%, 0.2 ml, 3.1 mmol). The mixture was heated to reflux for 2 hours. For the workup, the solution was cooled and concentrated at reduced pressure. The residue was partitioned between ethyl acetate (25 ml) and water (30 ml). The organic layer was separated, washed with water until the water phase showed a neutral pH. After drying over sodium sulphate, the organic layer was evaporated at reduced pressure. The 1-difluoromethyl-1H-pyrazole-3-carboxylic acid methyl ester was obtained as a colorless liquid (535 mg, 99% of theory) pure enough to be engaged in the next step without further purification. MS (ISP): m/z=177.1 [M+H]+. b) 4-Chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methyl ester A mixture of 1-difluoromethyl-1H-pyrazole-3-carboxylic acid methyl ester (535 mg, 3 mmol) and N-chloro-succinimide (1.22 g, 9.1 mmol) in N,N-dimethylformamide (5 ml) was heated at 50° C. overnight. The reaction mixture was cooled, poured into water (20 ml), then extracted with ethyl acetate. The organic layer was separated, washed with water, dried over sodium sulphate, finally evaporated at reduced pressure. The yellowish crude material was purified by chromatography on silica gel using a 3:1-mixture of cyclohexane and ethyl acetate as the eluent. The 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methyl ester was obtained as a white solid (540 mg, 84% of theory). MS (ISP): m/z=209.9 [M]+. c) 4-Chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid A solution of 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methyl ester (540 mg, 2.6 mmol) in tetrahydrofuran (18 ml) was treated at room temperature with a solution of lithium hydroxide (135 mg, 5.6 mmol) in a 1:1-mixture of water and methanol (12 ml). After 1 hour the reaction was complete, and the solvents were evaporated at reduced pressure. The residue was dissolved in water (10 ml) and acidified with hydrochloric acid (2M). Extraction with ethyl acetate, drying of the organic layer over sodium sulphate, and evaporation at reduced pressure yielded a white solid (555 mg) which was triturated with pentane (10 ml). The solid material was filtered, washed with pentane and dried. After drying at reduced pressure the 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid was obtained as a white solid (477 mg, 95% of theory). MS (ISP): m/z=195.0 [M−H]−.

reactant | 1-difluoromethyl-1H-pyrazole-3-carboxylic acid | 3.1 mmol, 500 mg | FC(N1N=C(C=C1)C(=O)O)F | C5H4F2N2O2
reactant | sulphuric acid | 3.1 mmol, 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 18 ml | CO | CH4O
product | 1-difluoromethyl-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=C1)C(F)F | C6H6F2N2O2
